US06824709B2
Acetic anhydride (5 mL) was slowly added to a mixture of 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenol (5 g) produced according to the first to ninth steps in Example 1 and pyridine (100 mL) while maintaining 0° C., and the solution was stirred at the same temperature for 2 hours. The reaction mixture was poured into ice and water (200 mL), and the product was extracted with toluene (50 mL). The toluene layer was dried on anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was purified by means of column chromatography (silica gel, eluting solvent: toluene) to obtain 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenyl acetate (5.1 g).

reactant | Acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenol | 5 g | C(CCCC)OC1=CC=2CC3=CC(=CC=C3C2C=C1)CCC1=CC=C(C=C1)O | C26H28O2
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 200 mL | O | H2O
product | 4-(2-(2-pentyloxyfluorene-7-yl)ethyl)phenyl acetate | 5.1 g | C(C)(=O)OC1=CC=C(C=C1)CCC1=CC=C2C=3C=CC(=CC3CC2=C1)OCCCCC | C28H30O3
